US07470680B2
(S)-7-chloro-2-neopentyl-4-(2-oxo-2-(4-(5-oxo-4,5-dihydro-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidin-1-yl)ethyl)-1,2,4,5-tetrahydroazepino[3,4-e]indol-3(8H)-one.
To 6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one (60.0 mg, 0.276 mmol) was added (S)-2-(7-chloro-2-neopentyl-3-oxo-1,2,3,4,5,8-hexahydroazepino[3,4-e]indol-4-yl) acetic acid (100 mg, 0.276 mmol), EDC (58.3 mg, 0.304 mmol), HOBT (41.0 mg, 0.304 mmol), DMF (2.0 ml) at rt, followed by diisopropylethylamine (0.192 ml, 1.10 mmol). The resulting mixture was stirred at rt over night, partial of the solvent was removed under N2, and the residue was purified on reverse phase PrepHPLC to afford the expected products(25.2 mg, 16%), (S)-7-chloro-2-neopentyl-4-(2-oxo-2-(4-(5-oxo-4,5-dihydro-1H-pyrrolo [3,2-b]pyridin-6-yl)piperidin-1-yl)ethyl)-1,2,4,5-tetrahydroazepino [3,4-e]indol-3 (8H)-one, as a tan solid. 1H-NMR (400 MHz, MeOD) d 0.79 (d, J=5.29 Hz, 11H) 1.52-1.62 (m, 1H) 1.81 (s, 1H) 2.38-2.49 (m, 1H) 2.75 (s, 1H) 3.01 (d, J=13.35 Hz, 1H) 3.09-3.21 (m, 4H) 3.66 (d, J=13.85 Hz, 1H) 3.96 (s, 3H) 3.99-4.06 (m, 1H) 4.24 (s, 1H) 4.65 (d, J=17.37 Hz, 2H) 5.46-5.55 (m, 1H) 6.27 (dd, J=5.29, 3.02 Hz, 1H) 7.22 (s, 1H) 7.36 (dd, J=7.81, 3.02 Hz, 1H) 8.24 (s, 1H); Mass spec 562.48 (MH+) calc for C31H36ClN5O3 561.25.

reactant | 6-(piperidin-4-yl)-1H-pyrrolo[3,2-b]pyridin-5(4H)-one | 0.276 mmol, 60.0 mg | N1CCC(CC1)C1=CC2=C(NC1=O)C=CN2 | C12H15N3O
reactant | (S)-2-(7-chloro-2-neopentyl-3-oxo-1,2,3,4,5,8-hexahydroazepino[3,4-e]indol-4-yl) acetic acid | 0.276 mmol, 100 mg | ClC=1C=C2C(=C3C=CNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC(C)(C)C | C19H23ClN2O3
reactant | EDC | 0.304 mmol, 58.3 mg
reactant | HOBT | 0.304 mmol, 41.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 1.10 mmol, 0.192 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | (S)-7-chloro-2-neopentyl-4-(2-oxo-2-(4-(5-oxo-4,5-dihydro-1H-pyrrolo[3,2-b]pyridin-6-yl)piperidin-1-yl)ethyl)-1,2,4,5-tetrahydroazepino[3,4-e]indol-3(8H)-one | 25.2 mg, 16% | ClC=1C=C2C(=C3C=CNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)C2=CC1=C(NC2=O)C=CN1)=O)=O)CC(C)(C)C | C31H36ClN5O3
